US08022205B2
4-(5-Methoxy-pyridin-3-yl)-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine (B-17)
In the same manner as Example 1-B-10, using 4-chloro-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine, and 3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine as a boronic acid, the desired compound was obtained.

reactant | 4-chloro-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=CC=NC=C2 | C15H16ClN5O
reactant | 3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | COC=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C | C12H18BNO3
reactant | boronic acid | B(O)O | BH3O2
product | 4-(5-Methoxy-pyridin-3-yl)-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | COC=1C=C(C=NC1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=CC=NC=C2 | C21H22N6O2
